US07045619B2
1,5-Diethylpyrazole-3-carboxylic acid
Ethyl 1,5-diethylpyrazole-3-carboxylate (20.7 g) in ethanol (250 ml) was treated with 2.5M aqueous NaOH (50.6 ml), and the mixture was stirred overnight. A further 4.2 ml of 2.5M NaOH was then added and stirring continued for a further 1 hour. The mixture was then poured into ethyl acetate/water. The mixture was shaken vigorously and the aqueous phase removed. The pH of the aqueous phase was adjusted to 2.0 using 1M aqueous HCl and saturated with NaCl. The aqueous layer was then extracted with 20% toluene/80% THF (5×100 ml). The combined organic extracts were dried over MgSO4 and evaporated in vacuo. The residue was triturated with hexane/diethyl ether to give the acid as a solid (14.69 g); υmax(CH2Cl2) 3450, 2750, 2596, 1697, cm−1; δ(CDCl3) 1.31 (3H, t, J 7 Hz), 1.44 (3H, t,J 7 Hz) 2.64 (2H, q, J 7 Hz), 4.20 (2H, q, J 7 Hz), 6.64 (1H,s) ppm.

reactant | Ethyl 1,5-diethylpyrazole-3-carboxylate | 20.7 g | C(C)N1N=C(C=C1CC)C(=O)OCC | C10H16N2O2
reactant | NaOH | 2.5M, 50.6 ml | [OH-].[Na+]
reactant | NaOH | 2.5M, 4.2 ml | [OH-].[Na+]
reactant | ethyl acetate water | C(C)(=O)OCC.O
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | 1,5-Diethylpyrazole-3-carboxylic acid | 14.69 g | C(C)N1N=C(C=C1CC)C(=O)O | C8H12N2O2
